US08124629B2
Sodium borohydride (690 mg, 18.2 mmol) was added to a solution of 2-(benzenesulfonyl)-benzaldehyde (1.98 g, 8.04 mmol) and methanol (50 mL). The reaction mixture was stirred at room temperature. When vigorous bubbling subsided, the reaction mixture was cooled in an ice-water bath, then carefully quenched with a 1.0 N aqueous solution of HCl (20 mL). The mixture was concentrated to remove methanol, then the residue was diluted with water and extracted three times with ethyl acetate. The combined organic phases were dried over MgSO4, filtered, and concentrated to afford 1.94 g (97%) of (2-benzenesulfonyl-phenyl)-methanol as an oil. This product was used in subsequent steps without further purification.

reactant | Sodium borohydride | 18.2 mmol, 690 mg | [BH4-].[Na+]
reactant | 2-(benzenesulfonyl)-benzaldehyde | 8.04 mmol, 1.98 g | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=O)C=CC=C1 | C13H10O3S
solvent | methanol | 50 mL | CO | CH4O
product | (2-benzenesulfonyl-phenyl)-methanol | 1.94 g, 97% | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)CO | C13H12O3S
